US07135600B2
(i) 3-(3-{[7-({(2R)-2-Hydroxy-2-[4-hydroxy-3-(hydroxymethyl)phenyl]ethyl}amino)heptyl]oxy}propyl)benzenesulfonamide (E)-3-(napthalen-2-yl)-2-propenoate
3-(3-{[7-({(2R)-2-Hydroxy-2-[4-hydroxy-3-(hydroxymethyl)phenyl]ethyl}amino)heptyl]oxy}propyl)benzenesulfonamide (1 g) was taken up in ethanol (6 ml) at room temperature with stirring and (E)-3-(napthalen-2-yl)-2-propenoic acid (0.39 g) added. The mixture was heated to ca 60° C. until a solution formed. The solution was cooled to room temperature and seed crystals of the title compound added. The mixture was aged for 65 h, the product filtered, washed with ethanol (1 ml) and dried to give the title compound (1.05 g) M Pt.=135° C.–146° C.

reactant | 3-(3-{[7-({(2R)-2-Hydroxy-2-[4-hydroxy-3-(hydroxymethyl)phenyl]ethyl}amino)heptyl]oxy}propyl)benzenesulfonamide | 1 g | O[C@@H](CNCCCCCCCOCCCC=1C=C(C=CC1)S(=O)(=O)N)C1=CC(=C(C=C1)O)CO | C25H38N2O6S
reactant | (E)-3-(napthalen-2-yl)-2-propenoic acid | 0.39 g | C1=C(C=CC2=CC=CC=C12)/C=C/C(=O)O | C13H10O2
solvent | ethanol | 6 ml | C(C)O | C2H6O
product | 3-(3-{[7-({(2R)-2-Hydroxy-2-[4-hydroxy-3-(hydroxymethyl)phenyl]ethyl}amino)heptyl]oxy}propyl)benzenesulfonamide (E)-3-(napthalen-2-yl)-2-propenoate | C1=C(C=CC2=CC=CC=C12)/C=C/C(=O)O.O[C@@H](CNCCCCCCCOCCCC=1C=C(C=CC1)S(=O)(=O)N)C1=CC(=C(C=C1)O)CO | InChI=1S/C25H38N2O6S.C13H10O2/c26-34(31,32)23-10-6-8-20(16-23)9-7-15-33-14-5-3-1-2-4-13-27-18-25(30)21-11-12-24(29)22(17-21)19-28;14-13(15)8-6-10-5-7-11-3-1-2-4-12(11)9-10/h6,8,10-12,16-17,25,27-30H,1-5,7,9,13-15,18-19H2,(H2,26,31,32);1-9H,(H,14,15)/b;8-6+/t25-;/m0./s1
